US07888362B2
Acetic anhydride (0.34 ml, 3.6 mmol) and pyridine (0.34 ml, 4.3 mmol) were added to a solution of 7-[3-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)propoxy]-1,2,3,4-tetrahydroquinoline (0.49 g, 1.2 mmol) in methylene chloride (10 ml) with cooling in an ice-bath, followed by stirring at room temperature overnight. The reaction mixture was concentrated under reduced pressure, and water and ethyl acetate were added to the residue to separate the organic phase from the water phase. The organic phase was washed with water, saturated sodium hydrogencarbonate aqueous solution and brine in this order, and concentrated under reduced pressure. The residue was purified by basic silica gel column chromatography (n-hexane:ethyl acetate=1:1), and concentrated under reduced pressure. The resulting residue was dissolved in ethyl acetate (10 ml), and 1N—HCl—ethanol solution was added thereto. Then, crystals precipitated were filtered out and dried to obtain 1-acetyl-7-[3-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)propoxy]-1,2,3,4-tetrahydroquinoline hydrochloride (0.27 q, yield: 52%) as white powder.

reactant | Acetic anhydride | 3.6 mmol, 0.34 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | pyridine | 4.3 mmol, 0.34 ml | N1=CC=CC=C1 | C5H5N
reactant | 7-[3-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)propoxy]-1,2,3,4-tetrahydroquinoline | 1.2 mmol, 0.49 g | S1C2=C(C=C1)C(=CC=C2)N2CCN(CC2)CCCOC2=CC=C1CCCNC1=C2 | C24H29N3OS
reactant | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 1-acetyl-7-[3-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)propoxy]-1,2,3,4-tetrahydroquinoline hydrochloride | yield: 52% | Cl.C(C)(=O)N1CCCC2=CC=C(C=C12)OCCCN1CCN(CC1)C1=CC=CC=2SC=CC21 | InChI=1S/C26H31N3O2S.ClH/c1-20(30)29-12-3-5-21-8-9-22(19-25(21)29)31-17-4-11-27-13-15-28(16-14-27)24-6-2-7-26-23(24)10-18-32-26;/h2,6-10,18-19H,3-5,11-17H2,1H3;1H
